US05166198
2,6-Diamino-9-(4-phosphonobutoxy)purine
2,6-Diamino-9-[4-(diethoxyphosphoryl)butoxy]purine (0.07 g, 0.2 mmol) and bromotrimethylsilane (0.26 ml, 2 mmol) were dissolved in dimethylformamide (3 ml) and the reaction mixture was stirred at 23° C. for 4 hr. The solvent was evaporated under vacuum and the residue dissolved in methanol-water solution (8:2). The material crystallised from the solution to give the title compound as colourless crystals (0.05 g, 84%), m.p. 295°-297° C. 1H NMR: δH [(CD3)2SO+D2O] 1.68 (6H, m, CH2CH2CH2P), 4.31 (2H, t, J=6 Hz, NOCH2), 8.35 (1H, s, H-8).

reactant | 2,6-Diamino-9-[4-(diethoxyphosphoryl)butoxy]purine | 0.2 mmol, 0.07 g | NC1=NC(=C2N=CN(C2=N1)OCCCCP(=O)(OCC)OCC)N | C13H23N6O4P
reactant | bromotrimethylsilane | 2 mmol, 0.26 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2,6-Diamino-9-(4-phosphonobutoxy)purine | 0.05 g, 84% | NC1=NC(=C2N=CN(C2=N1)OCCCCP(=O)(O)O)N | C9H15N6O4P
